US04945160
1-Acetyl-4-hydroxy-4-(tributylstannyl)piperidine (20)
Di-isopropyl amine (11.9 ml, 85 mmol) was dissolved in THF (200 ml) and cooled to 0° C. and n-butyllithium (2M, 42 ml, 85 mmol) was added over one minute. This solution was stirred at 0° C. for 15 minutes and tributyltin hydride (22.8 ml, 85 mmol) was added over one minute to give a yellow solution. After 45 minutes at 0° C. the solution was cooled to -70° C. and 1-acetyl-4-piperidone (10.2 g, 71 mmol) in THF (60 ml) was added to the solution dropwise. Upon completion of this addition, the reaction mixture had become difficult to stir and an additional 100 ml of THF was added, and stirring continued at -70° for 2.5 hours. At -70° C. the reaction was quenched by addition of sodium dihydrogen phosphate buffer, pH 6.5. The reaction was allowed to warm to 0° C. This slurry was diluted with diethylether (600 ml) and water. The organic layer was separated, washed with NaCl solution, dried over MgSO4, and evaporated to give the crude product. This was purified by flash column chromatography on silica gel using methylene chloride and 9/1 methylene chloride-ethanol. Evaporation of the appropriate fractions gave 16.4 g of the title compound, 20, which was used without further characterization.

reactant | Di-isopropyl amine | 85 mmol, 11.9 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 85 mmol, 2M, 42 ml | C(CCC)[Li]
reactant | tributyltin hydride | 85 mmol, 22.8 ml | C(CCC)[SnH](CCCC)CCCC
reactant | 1-acetyl-4-piperidone | 71 mmol, 10.2 g | C(C)(=O)N1CCC(CC1)=O | C7H11NO2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-Acetyl-4-hydroxy-4-(tributylstannyl)piperidine | 16.4 g | C(C)(=O)N1CCC(CC1)([Sn](CCCC)(CCCC)CCCC)O | InChI=1S/C7H12NO2.3C4H9.Sn/c1-6(9)8-4-2-7(10)3-5-8;3*1-3-4-2;/h10H,2-5H2,1H3;3*1,3-4H2,2H3;
